US08202858B2
(4-Aminomethyl-3-methyl-phenyl)-(9-chloro-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-methanone
A solution of 4-(9-chloro-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulene-6-carbonyl)-2-methyl-benzonitrile from E125.2 (80 mg, 0.2 mmol) in methanol (5 ml) at room temperature was treated with cobalt(II) chloride hexahydrate (101 mg, 0.4 mmol). The mixture was cooled to 0° C. then sodium borohydride (80 mg, 2.1 mmol) was added portionwise. The reaction mixture was stirred at 0° C. for 30 min. then for 2 h at room temperature then saturated NH4Cl was added. The mixture was stirred for 10 min then the solid was filtered off through Celite® filter agent and the filtrate concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 1% 35% ammonia:9% methanol:90% di-chloromethane) to yield the title compound (24 mg, 30%).

reactant | 4-(9-chloro-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulene-6-carbonyl)-2-methyl-benzonitrile | ClC=1C=CC2=C(C=3NC(=NC3CCN2C(=O)C2=CC(=C(C#N)C=C2)C)C)C1 | C21H17ClN4O
reactant | sodium borohydride | 2.1 mmol, 80 mg | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | methanol | 5 ml | CO | CH4O
catalyst | cobalt(II) chloride hexahydrate | 0.4 mmol, 101 mg | O.O.O.O.O.O.[Co](Cl)Cl
product | (4-Aminomethyl-3-methyl-phenyl)-(9-chloro-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-methanone | 24 mg, 30% | NCC1=C(C=C(C=C1)C(=O)N1C2=C(C=3NC(=NC3CC1)C)C=C(C=C2)Cl)C | C21H21ClN4O
